US05120855
D-camphor ([a]D20 -44.0°, c=7.5), in ethanol is prepared as follows Bromine (320 g) is added dropwise to d-camphor (304 g) at 80° C. over a period of three hours under stirring and the liquified reaction mixture is kept at the same condition for 3 hours. After hydrogen bromide is released by bubbling, the reaction mixture is poured into ice water (3 liters) and the resulting precipitate is recrystallized from ethanol (230 mol) to give d-3-bromocamphor (302 g), mp 76° C. [a]D20 -134° (c=10, EtOH). d-3-bromocamphor (231 g) is dissolved in chloroform (400 ml) and chlorosulfonic acid (233 g) are added dropwise to this solution over 1 hour at 50° C. The reaction mixture is refluxed for 12 hours and poured into iced water (1 liter). The layer and washings are neutralized with Ca(OH)2 (120 g), and precipitated CaSO4 is filtered off. To the filtrate (NH4)2CO3 (128 g) are added and the precipitated CaCO2 is removed. The filtrate is concentrated and crystallized crude ammonium d-bromocamphor sulfonic acid (152 g) is recrystallized from water (270 ml) to give ammonium d-bromocamphor sulfonic acid (102 g), mp. 270°-272° C.(dec), [a]D20 -85.3° (c=2, water), lit.[a]D22 -85.3° (c=4, water), [a]D20 -84.5° (c=1.6, water). Calculated for NH4C10H14O2 4SBr: C, 36.59: H, 5.53: N, 4.27. Ammonium d-bromocamphor sulfonic acid obtained above is passed through Amberlite IR-120, and the effluent is concentrated to dryness and used as free d-bromocamphor sulfonic acid monohydrate. Analysis: All samples are dried overnight in vacuo at 40° C. Melting points are measured with a Yamato MP-21 melting point apparatus in an unsealed capillary tube and are uncorrected. Optical rotations are measured with a Perkin-Elmer 141 automatic polarimeter.

reactant | D-camphor | C[C@@]12CC[C@@H](C1(C)C)CC2=O | C10H16O
reactant | Bromine | 320 g | BrBr | Br2
reactant | d-camphor | 304 g | C[C@@]12CC[C@@H](C1(C)C)CC2=O | C10H16O
reactant | hydrogen bromide | Br | BrH
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | ethanol | 230 mol | C(C)O | C2H6O
product | d-3-bromocamphor | 302 g | CC1(C2CCC1(C(=O)C2Br)C)C | C10H15BrO
